US07202221B2
7-[(2-aminoethyl)amino]-1-methyl-4-oxo-1,4-dihydro-3-quinoline carboxylic acid
To a solution of 7-chloro-1-methyl-4-oxo-1,4-dihydro-3-quinoline carboxylic acid (1.5 g, prepared according to H. Agui and T. Nakagome, J. Heterocycl. Chem., (1979), 16(7), 1353–60) in 1-methyl-2-pyrrolidinone (15 mL), was added ethylenediamine (1.9 g). The mixture was heated at 130° C. for 24 hours. The reaction mixture was cooled and poured into DCM (20 mL). The precipitate obtained was dispersed in MeOH, filtered giving the title compound (500 mg).

reactant | 7-chloro-1-methyl-4-oxo-1,4-dihydro-3-quinoline carboxylic acid | 1.5 g | ClC1=CC=C2C(C(=CN(C2=C1)C)C(=O)O)=O | C11H8ClNO3
reactant | ethylenediamine | 1.9 g | C(CN)N | C2H8N2
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | 1-methyl-2-pyrrolidinone | 15 mL | CN1C(CCC1)=O | C5H9NO
solvent | MeOH | CO | CH4O
product | 7-[(2-aminoethyl)amino]-1-methyl-4-oxo-1,4-dihydro-3-quinoline carboxylic acid | 500 mg | NCCNC1=CC=C2C(C(=CN(C2=C1)C)C(=O)O)=O | C13H15N3O3
